### PR TITLE
[Merged by Bors] - feat: `s ∩ t * s ∪ t ⊆ s * t`

### PR DESCRIPTION
**Pull request by YaelDillies**
Match https://github.com/leanprover-community/mathlib/pull/17961

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/NAry.lean [hunk 1]
```diff
@@ -4,7 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Yaël Dillies
 
 ! This file was ported from Lean 3 source module data.finset.n_ary
-! leanprover-community/mathlib commit 20715f4ac6819ef2453d9e5106ecd086a5dc2a5e
+! leanprover-community/mathlib commit 517cc149e0b515d2893baa376226ed10feb319c7
 ! Please do not edit these lines, except to modify the commit id
 ! if you have ported upstream changes.
 -/
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/NAry.lean:10]: https://leanprover-community.github.io/mathlib-port-status/file/data/finset/n_ary?range=20715f4ac6819ef2453d9e5106ecd086a5dc2a5e..517cc149e0b515d2893baa376226ed10feb319c7 says you should have added an import here

File: Mathlib/Data/Finset/Pointwise.lean [hunk 2]
```diff
@@ -4,14 +4,15 @@ Released under Apache 2.0 license as described in the file LICENSE.
...
+! leanprover-community/mathlib commit 517cc149e0b515d2893baa376226ed10feb319c7
 ! Please do not edit these lines, except to modify the commit id
 ! if you have ported upstream changes.
 -/
 import Mathlib.Data.Finset.NAry
 import Mathlib.Data.Finset.Preimage
-import Mathlib.Data.Set.Pointwise.SMul
+import Mathbin.Data.Set.Pointwise.Finite
 import Mathlib.Data.Set.Pointwise.ListOfFn
+import Mathlib.Data.Set.Pointwise.SMul
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Pointwise.lean:15]: This is not the order you had them in mathlib3, let's keep things the same when forward-porting even if it's not sorted.

File: Mathlib/Data/Polynomial/RingDivision.lean [hunk 3]
```diff
@@ -76,7 +76,7 @@ theorem modByMonic_eq_of_dvd_sub (hq : q.Monic) {p₁ p₂ : R[X]} (h : q ∣ p
 theorem add_modByMonic (p₁ p₂ : R[X]) : (p₁ + p₂) %ₘ q = p₁ %ₘ q + p₂ %ₘ q := by
   by_cases hq : q.Monic
   · cases' subsingleton_or_nontrivial R with hR hR
-    · simp only [eq_iff_true_of_subsingleton]
```
Comment (eric-wieser) [inline Mathlib/Data/Polynomial/RingDivision.lean:79]: Please make a separate PR to fix the whitespace in this file, it adds significant noise to this forward-port

File: Mathlib/Data/Set/NAry.lean [hunk 4]
```diff
@@ -430,4 +430,20 @@ lemma image2_right_identity {f : α → β → α} {b : β} (h : ∀ a, f a b =
   rw [image2_singleton_right, funext h, image_id']
 #align set.image2_right_identity Set.image2_right_identity
 
+theorem image2_inter_union_subset {f : α → α → β} {s t : Set α} (hf : ∀ a b, f a b = f b a) :
+    image2 f (s ∩ t) (s ∪ t) ⊆ image2 f s t :=
+  by
```
Comment (eric-wieser) [inline Mathlib/Data/Set/NAry.lean:435]: nit: wrap to the previous line like the `start_port.sh` script would, same below

**Review by eric-wieser — COMMENTED** [review]
Mostly looks good, though CI is failing

File: Mathlib/Data/Finset/Pointwise.lean [hunk 5]
```diff
@@ -1843,6 +1882,12 @@ theorem subset_smul_finset_iff : s ⊆ a • t ↔ a⁻¹ • s ⊆ t := by
 #align finset.subset_smul_finset_iff Finset.subset_smul_finset_iff
 #align finset.subset_vadd_finset_iff Finset.subset_vadd_finset_iff
 
+@[simp, to_additive]
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Pointwise.lean:1885]:
```suggestion
@[to_additive (attr := simp)]
```

File: Mathlib/Data/Finset/Pointwise.lean [hunk 6]
```diff
@@ -140,6 +141,12 @@ theorem Nonempty.subset_one_iff (h : s.Nonempty) : s ⊆ 1 ↔ s = 1 :=
 #align finset.nonempty.subset_one_iff Finset.Nonempty.subset_one_iff
 #align finset.nonempty.subset_zero_iff Finset.Nonempty.subset_zero_iff
 
+@[simp, to_additive]
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Pointwise.lean:144]:
```suggestion
@[to_additive (attr := simp)]
```

File: Mathlib/Data/Finset/Pointwise.lean [hunk 7]
```diff
@@ -1978,3 +2023,106 @@ protected theorem neg_smul [DecidableEq α] : -s • t = -(s • t) := by
...
+
+open Pointwise
+
+namespace Set
+
+section One
+
+variable [One α]
+
+@[simp, to_additive]
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Pointwise.lean:2035]:
```suggestion
@[to_additive (attr := simp)]
```

File: Mathlib/Data/Finset/Pointwise.lean [hunk 8]
```diff
@@ -1978,3 +2023,106 @@ protected theorem neg_smul [DecidableEq α] : -s • t = -(s • t) := by
...
+theorem toFinset_one : (1 : Set α).toFinset = 1 :=
+  rfl
+#align set.to_finset_one Set.toFinset_one
+#align set.to_finset_zero Set.toFinset_zero
+
+@[simp, to_additive]
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Pointwise.lean:2041]:
```suggestion
@[to_additive (attr := simp)]
```

File: Mathlib/Data/Finset/Pointwise.lean [hunk 9]
```diff
@@ -1978,3 +2023,106 @@ protected theorem neg_smul [DecidableEq α] : -s • t = -(s • t) := by
...
+#align set.finite.to_finset_one Set.Finite.toFinset_one
+#align set.finite.to_finset_zero Set.Finite.toFinset_zero
+
+end One
+
+section Mul
+
+variable [DecidableEq α] [Mul α] {s t : Set α}
+
+@[simp, to_additive]
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Pointwise.lean:2053]:
```suggestion
@[to_additive (attr := simp)]
```

File: Mathlib/Data/Finset/Pointwise.lean [hunk 10]
```diff
@@ -1978,3 +2023,106 @@ protected theorem neg_smul [DecidableEq α] : -s • t = -(s • t) := by
...
+#align set.finite.to_finset_mul Set.Finite.toFinset_mul
+#align set.finite.to_finset_add Set.Finite.toFinset_add
+
+end Mul
+
+section SMul
+
+variable [SMul α β] [DecidableEq β] {a : α} {s : Set α} {t : Set β}
+
+@[simp, to_additive]
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Pointwise.lean:2073]:
```suggestion
@[to_additive (attr := simp)]
```

File: Mathlib/Data/Finset/Pointwise.lean [hunk 11]
```diff
@@ -1978,3 +2023,106 @@ protected theorem neg_smul [DecidableEq α] : -s • t = -(s • t) := by
...
+#align set.finite.to_finset_smul Set.Finite.toFinset_smul
+#align set.finite.to_finset_vadd Set.Finite.to_finset_vadd
+
+end SMul
+
+section SMul
+
+variable [DecidableEq β] [SMul α β] {a : α} {s : Set β}
+
+@[simp, to_additive]
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Pointwise.lean:2093]:
```suggestion
@[to_additive (attr := simp)]
```

**Review by eric-wieser — COMMENTED** [review]
This should fix CI

File: Mathlib/Data/Polynomial/RingDivision.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Data/Polynomial/RingDivision.lean:79]: I'm not sure where this comes from! I didn't touch all those lines.

Comment (eric-wieser) [reply Mathlib/Data/Polynomial/RingDivision.lean:79]: Its vscode auto-truncating the lines. Ideally we'd have a linter than enforced this. I think @mattrobball needs to enable whitespace stripping in their editor!

File: Mathlib/Data/Finset/Pointwise.lean [hunk 12]
```diff
@@ -2038,7 +2038,8 @@ theorem toFinset_one : (1 : Set α).toFinset = 1 :=
 #align set.to_finset_one Set.toFinset_one
 #align set.to_finset_zero Set.toFinset_zero
 
-@[to_additive (attr := simp)]
+-- Porting note: should take priority over `Finite.toFinset_singleton`
+@[to_additive (attr := simp high)]
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Pointwise.lean]: As an explanation of what's going on here; lean reduces the definition of `(1 : Set _)` because it's hidden in an implicit argument. As a mwe:
```lean
import Mathlib.Data.Set.Pointwise.Finite
import Mathlib.Data.Finset.Pointwise


namespace Set

open scoped Pointwise

variable {α : Type _} [One α]

/-- A version of `toFinset` with an explicit `s` argument. -/
noncomputable def Finite.toFinset' (s : Set α) (hs : s.Finite) : Finset α := hs.toFinset

/-- A copy of `Finite.toFinset_singleton` -/
@[simp] lemma Finite.toFinset'_singleton (a : α) (hs : Set.Finite {a} := finite_singleton _) : hs.toFinset' _ = {a} :=
  Finite.toFinset_singleton _

-- ok
@[simp] theorem Finite.toFinset'_one (h : (1 : Set α).Finite := finite_one) : h.toFinset' _ = 1 :=
  Finite.toFinset_singleton _

-- rejected by linter
@[simp] theorem Finite.toFinset_one (h : (1 : Set α).Finite := finite_one) : h.toFinset = 1 :=
  Finite.toFinset_singleton _

end Set

#lint
```

I think this probably happened in Lean 3 too, but there the simp priority was automatically correct.

**Comment by eric-wieser** [comment]
bors d+

Please merge once CI passes.

**Comment by eric-wieser** [comment]
bors merge
